US09079916B2
To 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (9.50 g, 46.00 mmol), thionyl chloride (10.00 mL, 138.00 mmol) and DMF (4 drops) were added and the mixture was stirred and heated at 60° C. for thirty minutes. The excess thionyl chloride was evaporated under reduced pressure. A portion of the acid chloride (23.20 mmol) was dissolved in pyridine (15 mL) and was slowly added to 6-bromopyridin-3-amine (23.20 mmol) in pyridine (10 mL). The reaction mixture was stirred at 110° C. for one hour and thirty minutes. The pyridine was evaporated under reduced pressure. The resulting mixture was dissolved in dichloromethane (200 mL) and washed with 1 N NaOH (4×50 mL). The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide (4 g, 48%).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 46.00 mmol, 9.50 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | thionyl chloride | 138.00 mmol, 10.00 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 6-bromopyridin-3-amine | 23.20 mmol | BrC1=CC=C(C=N1)N | C5H5BrN2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide | 4 g, 48% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)Br | C16H13BrN2O3
